US06642395B1
1) Preparation of (R)-mandelic Acid Methyl Ester
Into methanol (20 ml) were added (R)-mandelic acid (5.0 g) and p-toluenesulfonic acid (0.1 g), and the resulting mixture was heated under reflux for 2 hours. The reaction mixture was cooled, then neutralized, and concentrated. Ethyl acetate and water were added to the resulting residue, and the organic layer was collected by layer separation. The organic layer was washed with a saturated aqueous sodium chloride solution and dried with anhydrous magnesium sulfate. The desiccant was removed by filtration, and the solvent was distilled off from the filtrate to obtain a colorless oily compound mentioned above (5.35 g, 97.9%).

reactant | (R)-mandelic acid | 5.0 g | C([C@H](O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 20 ml | CO | CH4O
product | (R)-mandelic Acid Methyl Ester | COC([C@H](O)C1=CC=CC=C1)=O | C9H10O3
